US08835488B2
A mixture of 2-[2,2-dimethyl-4-(4-methylphenyl)oxan-4-yl]acetaldehyde (61.6 mg, 0.25 mmol), 3-methylbenzylamine (63 μl, 0.5 mmol) and acetic acid (50 μl, 8.6 mmol) in CH2Cl2 (3 ml) was stirred at rt for 1 h before it adding sodium triacetoxyborohydride (106 mg, 0.50 mmol). The resulting mixture was stirred at rt for 18 h. The mix was concentrated and dissolved in MeOH and purified by HPLC to give {2-[2,2-dimethyl-4-(4-methylphenyl)oxan-4-yl]ethyl}[(3-methylphenyl)methyl]amine as a white solid (35 mg, 40%, m/z: 352.3 [M+H]+ observed).

reactant | 2-[2,2-dimethyl-4-(4-methylphenyl)oxan-4-yl]acetaldehyde | 0.25 mmol, 61.6 mg | CC1(OCCC(C1)(C1=CC=C(C=C1)C)CC=O)C | C16H22O2
reactant | 3-methylbenzylamine | 0.5 mmol, 63 μl | CC=1C=C(CN)C=CC1 | C8H11N
reactant | acetic acid | 8.6 mmol, 50 μl | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.50 mmol, 106 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | {2-[2,2-dimethyl-4-(4-methylphenyl)oxan-4-yl]ethyl}[(3-methylphenyl)methyl]amine | CC1(OCCC(C1)(C1=CC=C(C=C1)C)CCNCC1=CC(=CC=C1)C)C | C24H33NO
